US04605672
4-Chloro-4'-[3-(diethylamino)-propoxy]-α-ethyl-benzhydrol
To a Grignard reactant prepared from 7.2 g. of magnesium turnings and 32.6 g. of ethyl bromide in 120 ml. of dry ether a solution of 25.6 g. of 4-chloro-4'-[3-(diethylamino)-propoxy]-benzophenone in 300 ml. of dry ether is added dropwise, with stirring at -30° C. The reaction mixture is refluxed for 30 minutes. After cooling, it is poured onto a solution of ammonium chloride in ice water. The aqueous phase is extracted with ether, the ethereal phase is washed to neutral with water, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. Distillation of the residue in vacuo yields 15.3 g. of the title compound, boiling at 212° to 214° C./13.3 Pa.

reactant | magnesium | [Mg] | Mg
reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | 4-chloro-4'-[3-(diethylamino)-propoxy]-benzophenone | ClC1=CC=C(C(=O)C2=CC=C(C=C2)OCCCN(CC)CC)C=C1 | C20H24ClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 4-Chloro-4'-[3-(diethylamino)-propoxy]-α-ethyl-benzhydrol | ClC1=CC=C(C(C2=CC=C(C=C2)OCCCN(CC)CC)(O)CC)C=C1 | C22H30ClNO2
